US06869954B2
2) Preparation of 3′-fluoro-4′-methylacetophenone
To a solution of 4-(1-hydroxyethyl)-2-fluorotoluene (55.8 mg, 0.36 mmol) in methylene chloride (1 mL) were added molecular sieve 4A (56.0 mg) and PCC 94.0 mg (0.43 mmol), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was filtered through Celite, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography on silica gel to yield the title compound as a pale yellow oil (47.5 mg, 86.0%).

reactant | 4-(1-hydroxyethyl)-2-fluorotoluene | 0.36 mmol, 55.8 mg | OC(C)C1=CC(=C(C=C1)C)F | C9H11FO
reactant | PCC | 0.43 mmol, 94.0 mg | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 3′-fluoro-4′-methylacetophenone | 47.5 mg, 86.0% | FC=1C=C(C=CC1C)C(C)=O | C9H9FO
